US07067517B2
4-(3-Trifluoromethyl-pyridin-2-yl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine, yield 25%. White crystals, m.p. 131–132° C.; HPLC-MS: m/z: 513 (M+1) at Rt=5.0 min.; IR (KBr): ν 1722 (C═O) cm−1.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | KBr | [K+].[Br-]
product | 4-(3-Trifluoromethyl-pyridin-2-yl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | yield 25% | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)(F)F | C23H18F6N4O3
